US04859460
N-chloroacetamidomethyl acrylamide/N,N-dimethyl acrylamide copolymer
21 g of N-chloroacetamidomethyl acrylamide, 14 g of N,N-dimethyl acrylamide, 850 g of methanol and 42 ml of a 33% hydrogen peroxide solution are placed in a Hanovia-type photochemical reactor equipped with a 100 W medium pressure lamp.

reactant | N-chloroacetamidomethyl acrylamide | 21 g | ClCC(=O)NCNC(C=C)=O | C6H9ClN2O2
reactant | N,N-dimethyl acrylamide | 14 g | CN(C(C=C)=O)C | C5H9NO
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | 850 g | CO | CH4O
product | N-chloroacetamidomethyl acrylamide N,N-dimethyl acrylamide | ClCC(=O)NCNC(C=C)=O.CN(C(C=C)=O)C | InChI=1S/C6H9ClN2O2.C5H9NO/c1-2-5(10)8-4-9-6(11)3-7;1-4-5(7)6(2)3/h2H,1,3-4H2,(H,8,10)(H,9,11);4H,1H2,2-3H3
